US06740782B2
Synthesis of 1,1,2,2-tetrakis(4-cyanoethylthiophenyl) ethylene (Compound No. 11)
1,1,2,2-tetrakis(4-mercaptophenyl) ethylene (0.5 mmol) made in Example 2 was added to 30 ml of THF, and 160 mg (4.0 mmol) of sodium hydride and 0.35 mL (4.0 mmol) of 3-bromopropionitrile were added with stirring in an ice-cooled bath followed by being refluxed at 85° C. for 24 hours. After solvent was evaporated, ice-cooled water was added to the residue, the mixture was acidified with hydrochloric acid, and then was extracted with dichloromethane. The extract was dehydrated with anhydrous magnesium sulfate. Subsequently, it was subjected to a silica gel column chromatography (φ40 mm, height=50 mm, developing solvent: ethyl acetate: chloroform=1:15), and was recrystallized from chloroform and carbon tetrachloride to afford the target compound.

reactant | 1,1,2,2-tetrakis(4-mercaptophenyl) ethylene | 0.5 mmol | SC1=CC=C(C=C1)C(=C(C1=CC=C(C=C1)S)C1=CC=C(C=C1)S)C1=CC=C(C=C1)S | C26H20S4
reactant | sodium hydride | 4.0 mmol, 160 mg | [H-].[Na+]
reactant | 3-bromopropionitrile | 4.0 mmol, 0.35 mL | BrCCC#N | C3H4BrN
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1,1,2,2-tetrakis(4-cyanoethylthiophenyl) ethylene | C(#N)CCSC1=CC=C(C=C1)C(=C(C1=CC=C(C=C1)SCCC#N)C1=CC=C(C=C1)SCCC#N)C1=CC=C(C=C1)SCCC#N | C38H32N4S4
